US07582636B2
2-(4-tert-Butyl-phenyl)-8-piperazin-1-yl-imidazo[1,2-a]pyridine:
To a flask containing 8-bromo-2-(4-tert-butyl-phenyl)-imidazo[1,2-a]pyridine (0.313 g, 0.951 mmol) was added tris(dibenzylidineacetone)dipalladium(0) (0.087 g, 0.0.0951 mmol), 2-(di-tert-butylphosphino)biphenyl (0.028 g, 0.0951 mmol), sodium tert-butoxide (0.183 g, 1.90 mmol) and piperazine (0.409 g, 4.76 mmol). The solid reagents were then suspended in degassed toluene (22 mL). The mixture was purged with nitrogen and heated to 115° C. for 2 h. The reaction mixture was concentrated to dryness under reduced pressure. The crude mixture was purified by flash silica gel chromatography, eluting with 15% methanol/chloroform to give 0.242 g (76%) of the title compound. MS (ES) m/z 335.1; HPLC (Method B): r.t.=8.4 min., purity 98.6% at 210-370 nm. HRMS: calcd for C21H26N4+H+, 335.22302; found (ESI, M+H), 335.2236.

reactant | 8-bromo-2-(4-tert-butyl-phenyl)-imidazo[1,2-a]pyridine | 0.951 mmol, 0.313 g | BrC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)C(C)(C)C | C17H17BrN2
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.0951 mmol, 0.028 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 1.90 mmol, 0.183 g | CC(C)([O-])C.[Na+]
reactant | piperazine | 4.76 mmol, 0.409 g | N1CCNCC1 | C4H10N2
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-tert-Butyl-phenyl)-8-piperazin-1-yl-imidazo[1,2-a]pyridine | 0.242 g, 76% | C(C)(C)(C)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2N2CCNCC2)C1 | C21H26N4
